US04774245
A mixture of 12 g of 98% oxalylchloride in 19.5 ml of triethylamine and 50 ml of toluene was added dropwise to a stirred solution of 8.5 g of o-N-methylamino aniline in 80 ml of toluene. The resulting mixture was heated at reflux for one hour. The precipitate was washed with ether. The residue was stirred with water and filtered to give 1,2,3,4-tetrahydro-1-methyl-2,3-dioxo-quinoxaline.

reactant | oxalylchloride | 12 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | o-N-methylamino aniline | 8.5 g | CNC1=C(N)C=CC=C1 | C7H10N2
solvent | triethylamine | 19.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4-tetrahydro-1-methyl-2,3-dioxo-quinoxaline | CN1C(C(NC2=CC=CC=C12)=O)=O | C9H8N2O2
